US09385326B2
A flame-dried 50 mL Schlenk flask was equipped with sodium methanolate (1.90 g, 35.1 mmol, 6.5 mL; 5.4 M in MeOH), copper(I) iodide (0.77 g, 4.05 mmol) and 2,6-dibromo-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine (0.21 g, 0.40 mmol), suspended in N,N-dimethylformamide (12.4 mL) and degassed with argon for 30 min. This mixture was stirred under an atmosphere of argon at 100° C. overnight. The reaction was stopped by addition of aqueous NH4Cl solution and the resulting mixture was extracted with CH2Cl2 (3×). The combined organic fractions were dried with MgSO4, filtered and the solvents were evaporated. The crude product was purified by column chromatography (silica, n-hexane/EtOAc 8:1) yielding 2,6-dimethoxy-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine as a greenish oil (0.12 g, 70%).

reactant | sodium methanolate | 35.1 mmol, 5.4 M, 6.5 mL, 1.90 g | C[O-].[Na+]
reactant | 2,6-dibromo-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine | 0.40 mmol, 0.21 g | BrC1=CC=2C(C=3C=CC=C4C3N3C2C(=C1)C(C1=C3C(C4(C)C)=CC(=C1)Br)(C)C)(C)C | C27H25Br2N
reactant | N,N-dimethylformamide | 12.4 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 4.05 mmol, 0.77 g | [Cu]I
product | 2,6-dimethoxy-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine | 0.12 g, 70% | COC1=CC=2C(C=3C=CC=C4C3N3C2C(=C1)C(C1=C3C(C4(C)C)=CC(=C1)OC)(C)C)(C)C | C29H31NO2
